US05576324
5-Hydroxy-3-isopropyl-8-methylcarbostyril
3-Isopropyl-5-methoxy-8-methylcarbostyril (2.10 g, 9.90 mmol) was suspended in chlorobenzene (50 ml), to which aluminum chloride (4.20 g, 31.5 mmol) was added. The mixture was stirred at 110° C. for 1 hour. The reaction mixture was cooled on ice, and methanol (30 ml) was added thereto. After stirring for 10 minutes, the reaction mixture was condensed under reduced pressure. The resultant residue was recrystallized from water to obtain 1.60 g of the title compound as pale yellow powdery crystals (81.1%).

reactant | 3-Isopropyl-5-methoxy-8-methylcarbostyril | 9.90 mmol, 2.10 g | C(C)(C)C=1C(NC2=C(C=CC(=C2C1)OC)C)=O | C14H17NO2
reactant | aluminum chloride | 31.5 mmol, 4.20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | methanol | 30 ml | CO | CH4O
solvent | chlorobenzene | 50 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 5-Hydroxy-3-isopropyl-8-methylcarbostyril | 1.60 g, 81.1% | OC1=C2C=C(C(NC2=C(C=C1)C)=O)C(C)C | C13H15NO2
